US07585880B2
N-[3-(methylthio)propyl]-4-phenyl-1,3-thiazole-2-amine
A mixture of 2-bromo-1-phenylethanone (1.99 g), N-[3-(methylthio)propyl]thiourea (1.64 g) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated to give the title compound (1.85 g, yield 70%) as a yellow oil.

reactant | 2-bromo-1-phenylethanone | 1.99 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | N-[3-(methylthio)propyl]thiourea | 1.64 g | CSCCCNC(=S)N | C5H12N2S2
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[3-(methylthio)propyl]-4-phenyl-1,3-thiazole-2-amine | 1.85 g, yield 70% | CSCCCNC=1SC=C(N1)C1=CC=CC=C1 | C13H16N2S2
